US07981874B2
4-(1-Methyl-4-oxido-1,4-azaphosphinan-4-yl)benzoic acid.
4-(1-Methyl-4-oxido-1,4-azaphosphinan-4-yl)phenyl trifluoromethanesulfonate (0.18 g, 0.50 mmol) was made 0.25 M in 4:1 DMF:water and to this stirring solution was added palladium acetate (7 mg, 0.03 mmol), and DPPP (25 mg, 0.06 mmol). The resulting mixture was thoroughly degassed with bubbling carbon monoxide for 20 mins. DIPEA (130 mg, 1.01 mmol) was added and a CO balloon was attached. The resulting mixture was stirred at 70° C. for 16 h. The mixture was then cooled to ambient temperature and carried onto the subsequent reaction without purification. MS: cal'd 254 (MH+), exp 254 (MH+).

reactant | 4-(1-Methyl-4-oxido-1,4-azaphosphinan-4-yl)phenyl trifluoromethanesulfonate | 0.50 mmol, 0.18 g | FC(S(=O)(=O)OC1=CC=C(C=C1)P1(CCN(CC1)C)=O)(F)F | C12H15F3NO4PS
reactant | DMF | CN(C)C=O | C3H7NO
reactant | DPPP | 0.06 mmol, 25 mg | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
reactant | DIPEA | 1.01 mmol, 130 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
catalyst | palladium acetate | 0.03 mmol, 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(1-Methyl-4-oxido-1,4-azaphosphinan-4-yl)benzoic acid | CN1CCP(CC1)(=O)C1=CC=C(C(=O)O)C=C1 | C12H16NO3P
